US05420156
A mixture of phenoxathiin 10,10-dioxide (50.5 g) in dry tetrahydrofuran (500 mL) under nitrogen was cooled in an acetone/dry ice bath. To this slurry was added a 1.6 M solution of n-butyllithium in hexane (144 mL) at a rate which maintained the reaction temperature at -40° C., resulting after 30-45 min. in an orange solution of 1-lithiophenoxathiin 10,10-dioxide. To this solution was added ethyl iodide (35 mL), after which the reaction mixture was allowed to warm to room temperature. After about 3-4 hr the yellow solution was partially evaporated under reduced pressure and was then partitioned between methylene chloride and water. The methylene chloride phase was washed with dilute hydrochloric acid, dried over anhydrous magnesium sulfate and evaporated to a yellow residue which was purified by column chromatography on Silica Gel 60 (E. Merck, Darmstadt, Germany) eluting with toluene. The desired fractions were combined and evaporated, and the residue was crystallized from ethyl acetate/pentane to give 1-ethylphenoxathiin 10,10-dioxide, mp. 112°-114° C. (del. 102°-104° C.).

reactant | phenoxathiin 10,10-dioxide | 50.5 g | C1=CC=CC=2OC3=CC=CC=C3S(C12)(=O)=O | C12H8O3S
reactant | n-butyllithium | C(CCC)[Li]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | hexane | 144 mL | CCCCCC | C6H14
product | 1-lithiophenoxathiin 10,10-dioxide | [Li]C1=CC=CC=2OC3=CC=CC=C3S(C12)(=O)=O | InChI=1S/C12H7O3S.Li/c13-16(14)11-7-3-1-5-9(11)15-10-6-2-4-8-12(10)16;/h1-7H;
